US06130238
Iron powder (3.6 g) was added in one portion to 7.2 g of 4'-methoxy-3-nitrobiphenyl-4-acetic acid in 50 mL of glacial acetic acid and heated at 100° C. overnight. The reaction mixture was concentrated to dryness, sonicated in ethyl acetate and filtered to remove the insolubles. The filtrate was washed twice with 1N hydrochloric acid and brine, dried over anhydrous sodium sulfate and concentrated to give 2.7 g of 6-(4-methoxyphenyl)-2-oxindole as a rose colored solid.

reactant | 4'-methoxy-3-nitrobiphenyl-4-acetic acid | 7.2 g | COC1=CC=C(C=C1)C1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C15H13NO5
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 3.6 g | [Fe] | Fe
product | 6-(4-methoxyphenyl)-2-oxindole | 2.7 g | COC1=CC=C(C=C1)C1=CC=C2CC(NC2=C1)=O | C15H13NO2
